Name:  ___          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"Lately I've been feeling down."
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ year old ___ sophomore at 
___ with history of anxiety and depression who 
presented to the ___ on ___ via ___ with depression and SI w/ 
plan.
.
For further details please see Dr. ___ consult note 
from ___, and Dr. ___ admit note from 
___.
.
Per Dr. ___ consult note from  ___: "Ms. 
___ states that she has been struggling sadness 
and depression ever since coming to ___ to college 
(___ ___ year ago - she says she had a hard 
time adapting as a freshman, and at that time, attributed her 
mood changes to being in ___ and the transition to college 
life.  She notes she started taking Prozac 20 mg daily around 
the time of ___ last year (her therapist in ___ 
recommended it, she bought it OTC when at home) and she thought 
maybe it helped slightly.  Ms. ___ noted last 
semester was "okay," but had some ups and downs in her mood.  
She went home this past summer, stopped taking the Prozac (her 
mother thought she was better), but she did not feel any better 
like she thought she might - she became concerned something is 
wrong.
.
When she returned to ___ for the start of sophomore year, Ms. 
___ notes the same sadness and depression, but 
with anhedonia, poor motivation/concentration (doesn't feel like 
doing her schoolwork), low energy, decreased appetite (still 
eats due to boredom), sleeping more than usual (but sometimes 
waking up and worrying/problems falling asleep due to worrying),
increased anxiety.  She also states she began having passive 
suicidal thoughts, such as wanting to be dead because it is 
easier or it would be okay if a truck ran over her; then she 
thinks of her mother, how much her family is paying for her 
school, and wants to stay in school.
.
Ms. ___ states that nearing the day of 
presentation, she began thinking more about the knife in her 
kitchen, was looking at it, drawing at it, (maybe) held it; when 
asked if she was thinking of cutting herself with the intent to 
end her life she seemingly answered in the affirmative but then 
quickly answered, "I don't know."  She notes that on the day of 
presentation, she told her friends about these thoughts at their 
apartment, said she didn't feel safe going back to her own 
apartment, and they called ___, who brought her here.
.
Ms. ___ currently endorses passive SI, states 
that she would not actually act to harm/kill herself.  She 
denies ever having SI at any point in life before this, denies 
prior SA, denies SIB, and has never had this bad of depression 
before.  Ms. ___ does not have any treaters in 
the area (tried to set up care with a ___ therapist 
recently but
they never called her back).  She is very sad, did not expect to 
become the person she is now, and wants help."
.
On admission interview, Ms. ___ states she was 
diagnosed with anxiety and depression by her therapist in 
___ in ___. She was told to take Prozac, which 
she bought OTC 20mg in ___. She had been taking the med with 
good effect until ___ of this year. She self discontinued 
because her and her mother felt she was doing fine. She states 
she began feeling depressed over the summer after stopping the 
medication. Her depression worsening when she returned to 
college. She describes anhedonia and decreased interest in doing 
things she used to enjoy (like having out with friends, going 
out). She also describes difficulty concentrating on things like 
school work and
decreased motivation. She also notes increased anxiety since 
starting school, stating she often worries about school work, 
her future, and decisions she has to make, describing 
intermittent difficulty with sleep because of this. She denies 
any changes in energy level and appetite. 
.
She states for several weeks she has been having passive 
suicidal thoughts of wanting to die, though no intent or plan. 
She states the day she presented to the ___, she was having 
thoughts of cutting herself. She states this scared her because 
she never had thoughts like this before, and she feared she may 
actually hurt herself. She told her friends about the suicidal 
thoughts and
they called ___ campus police who transported her to 
the ___.
.
Psych ROS: As above in HPI. Denies symptoms of mania (presently 
and historically). Denies symptoms of psychosis including AH, 
VH, paranoia, and delusions (presently and historically). Denies 
HI. General ROS: All systems reviewed and were negative.
.
___ Course:
Per RN notes- patient arrived to ___ reporting "dark thoughts", 
SI with a plan; thoughts of using a knife to harm herself but 
states she would never go through with it. Notes that she 
stopped taking Prozac in ___ while back home in ___. 
Patient was calm/cooperative and at times teary eyed. No 
behavioral issues noted. No medication admins in the ___.
 
Past Medical History:
-Dolichocolon, symptoms include constipation 
-S/p L knee ligament and meniscus repair in ___
-Denies history of head trauma, seizure
.
Past psychiatric history: Per Dr. ___ (___),
confirmed with patient and updated as relevant:
-Prior diagnoses: Anxiety, depression (diagnosed by her 
therapist
in ___ in ___
-Hospitalizations: Denies
-Psychiatrist: Denies, has never been under the care of a 
psychiatrist
-Therapist: None currently, has seen a few therapists to help
with difficult life events, anxiety/depression in the past while
in ___
-Medication trials: Prozac (up to 20 mg daily, ___,
stopped because her mom thought she looked better)
-Suicide attempts: Denies
-Self-injurious behavior: Denies
-Harm to others: Denies
-Trauma: states at age ___, she lost her virginity and her mother
told her whole family, who then chastised her. Her stepfather
called her a "whore" and made her feel unwanted in the home.
-Access to weapons: Denies
 
Social History:
-Born/Raised: ___, moved to ___ for college
-Family: Mom, ___ (biological father not involved/has not 
been since she was very young), younger sister ___ years 
younger); also maternal grandparents; close relationship with 
mom, does not talk with younger sister
-Relationship status/Children: Denies, no children
-Primary Supports: 3 close friends here, mother, grandmother
-___: On campus at ___ with 5 roommates
-Education: Sophomore at ___, studying ___
-Employment/Income: Full-time student
-Spiritual: ___, not currently practicing as frequently as 
she would like
-Military History: ___
Substance History:
-Caffeine: Sometimes ___ cups/day but tries to avoid
-Tobacco: Denies use in US, but in ___ max 3 cigarettes/day
-Alcohol: Denies use in US, but in ___ socially
-Marijuana: Denies
-Other Drugs: Denies
 
Family History:
No known history of family mental illness
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:
VS: T-98.6  BP-127/75  HR-76  RR-16  O2Sat-99%

General: ___ year old female in NAD. Well-nourished,
well-developed. Appears stated age.
HEENT: Normocephalic, atraumatic. PERRL, EOMI. Oropharynx clear.
Neck: Supple.
Back: No significant deformity.
Lungs: CTA ___. No crackles, wheezes, or rhonchi.
CV: RRR, no murmurs/rubs/gallops. 
Abdomen: +BS, soft, nontender, nondistended. No palpable masses
or organomegaly.
Extremities: No clubbing, cyanosis, or edema.
Skin: No rashes, abrasions, scars, or lesions. 

Neurological:
 Cranial Nerves:
 I: Not tested.
 II: PERRL.
 III, IV, VI: EOMI intact ___ without nystagmus.
 V, VII: Facial strength and sensation intact and symmetric.
 VIII: Hearing intact to finger rub bilaterally.
 IX, X: Palatal elevation symmetrical.
 XI: trapezius normal bilaterally.
 XII: Tongue midline without fasciculations.
 Motor: Normal bulk and tone bilaterally. No abnormal movements, 

 no tremor. Strength: full power ___ throughout. Coordination: 
 Normal on finger to nose test. DTRs: patellar 1+ and 
 symmetrical. Sensation: Intact to light touch throughout. 
 Gait: Steady. Normal stance and posture. No truncal ataxia.

Cognition: 
  Wakefulness/alertness: awake and alert
  Attention: MOYB with no errors
  Orientation: oriented to person, time, place, situation
  Executive function (go-no go, Luria, trails, FAS): not tested
  Memory: ___ registration, ___ recall, ___ with cue. Intact to 
  recent and past history
  Fund of knowledge: consistent with education; can name current 

  events, correctly names past 2 presidents (has only been 
  living in ___ for ___ years).
  Calculations: $2.25 = "9 quarters"
  Abstraction: apple+orange="fruit". watch+ruler="have numbers". 

  bike+train="modes of transportation"
  Visuospatial: not assessed
  Speech: normal rate, volume, and tone
  Language: Speaks ___ fluently with subtle accent, no 
  paraphasic errors, appropriate to conversation

Mental Status:
 Appearance: ___ year old woman, appearing her stated age. Long
black hair, appears well groomed. Wearing hospital gown. No
apparent distress.
 Behavior: Calm, cooperative, engaged, friendly, appropriate eye
contact. Some psychomotor agitation- picking at hospital band
throughout the interview.
 Mood and Affect: "Down" / constricted affect, appears 
depressed,
tearful at times, appropriate to situation, congruent with mood
 Thought Process: linear, coherent, goal-oriented. No LOA.
 Thought Content: endorses SI. denies HI/AH/VH, no evidence of
delusions or paranoia
 Judgment and Insight: poor/poor
.
Discharge Physical Exam:
VS: 98.6 PO, 99 / 63, 85, 18, 98% 
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent. 
Mood is "Relieved;" Affect is stable and euthymic. Thought 
process is linear and goal-directed. Thought content absent for 
thoughts of self-harm or suicide. Future oriented. Judgment and 
insight good.
 
Pertinent Results:
___ 09:48PM BLOOD WBC-10.1* RBC-4.15 Hgb-12.2 Hct-36.6 
MCV-88 MCH-29.4 MCHC-33.3 RDW-12.7 RDWSD-40.9 Plt ___
___ 09:48PM BLOOD Neuts-61.0 ___ Monos-9.0 Eos-1.8 
Baso-0.7 Im ___ AbsNeut-6.18* AbsLymp-2.74 AbsMono-0.91* 
AbsEos-0.18 AbsBaso-0.07
___ 09:48PM BLOOD Plt ___
___ 09:48PM BLOOD Glucose-91 UreaN-10 Creat-0.6 Na-137 
K-4.4 Cl-99 HCO3-25 AnGap-13
___ 09:40PM BLOOD ALT-16 AST-74* AlkPhos-46 TotBili-0.2
___ 09:40PM BLOOD Calcium-9.3 Phos-4.1 Mg-2.0
___ 09:40PM BLOOD TSH-1.9
___ 09:48PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 10:09PM URINE  UCG-NEGATIVE
 
Brief Hospital Course:
#. Legal/ Safety: On admission, patient signed a conditional 
voluntary form pursuant MGL ch 123 section ___. Throughout her 
inpatient stay, she did not require physical or chemical 
restraints. She remained in good behavioral  control, acted 
appropriately in the milieu, and participated in groups with 
peers without incident.
.
#. Major Depressive Disorder, Recurrent
On admission interview, patient endorsed worsening 
neurovegetative symptoms (including anergia, guilt, anhedonia, 
and poor sleep) since returning to ___ for her next semester 
of undergraduate education; noted that perseveration and 
heightened distress over school and decisions regarding her 
major lead to worsening depression. Regarding thoughts 
immediately prior to admission, patient expressed beliefs that 
it would be easier if she weren't alive, also alluding to 
ambivalent thoughts about a plan involving a knife, but she 
denied intent. She expressed desire to engage in treatment and  
restart antidepressant medication. On admission, patient denied  
suicidal ideation or thoughts/urges to engage in self-harm.
.
Throughout initial and subsequent evaluation, patient endorsed 
worsening neurovegetative symptoms (including anergia, guilt, 
anhedonia, and poor sleep) following her return to ___ 
this ___ for her sophomore year. Her history is notable for 
similar symptoms (minus suicidal ideation) in the fall of her 
freshman year, and symptoms remitted with initiation of SSRI. 
However, patient discontinued this medication over the summer. 
Differential for presentation includes MDD recurrent vs 
adjustment disorder w/ depressive features; unclear to what 
extent situational and environmental factors precipitated 
current episode, but reinitiated treatment with Prozac. After 
discussion of potential risks and benefits, restarted 
Prozac 20 mg daily for depression. This dose was well tolerated 
with no stated side effects.
.
Patient's mother arrived from ___ on day after admission and 
met with treatment team; both patient and her mother expressed 
their preference for patient to return to ___ and take a 
medical leave from ___. Mother did not communicate any 
acute safety concerns regarding her daughter returning with her 
to ___ mother stated that she would assist her daughter 
returning to her therapist and support her adhering to her SSRI. 
Following this family meeting, team provided information to 
patient for liaison at ___ to contact regarding her medical 
leave following discharge.
.
At time of discharge, patient exhibited stable and brighter 
affect. Her thought process was linear and goal directed. 
Thought content was absent for suicidal ideation or thoughts of 
self-harm; she identified several future oriented plans (e.g. 
exploring other interests in order to clarify future education 
goals) and intent to resume treatment with her therapist. 
. 
#. Medical:
-No active/prior medical diagnoses
.
#. Substance use:
-No active/prior substance misuse concerns

#. Informed Consent: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
restarting Prozac, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient. We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any 
questions about medications with the treatment team. The patient 
appeared able to understand and consented to begin the 
medication.
.
#. Risk assessment:
Static risk factors include: chronic mental illness, and recent 
discharge from an inpatient psychiatric unit.
.
Modifiable risk factors include: suicidal ideation without 
intent/plan, no established outpatient treatment, and insomnia. 
We modified these risk factors by starting Prozac 20 mg PO 
daily.
.
Protective risk factors include: help-seeking nature, 
future-oriented viewpoint, sense of responsibility to family, no 
irritability/agitation, no rage/anger/revenge, reality testing 
ability, good coping skills, good problem-solving skills, lack 
of suicidal ideation, no history of substance use disorder, no 
history of abuse, ability to tolerate rejection, and strong 
social supports.
.
At time of discharge, patient was no longer at acutely elevated 
risk of harm to herself. She demonstrated preserved capacity to 
engage in a meaningful discussion about safety planning and what 
she would do if symptoms of depression were to worsen or if she 
had thoughts of harming herself in the future. She stated that 
she would speak to her therapist or reach out to emergency 
services. She maintained that she would remain abstinent from 
any illicit substances or alcohol.
.
Overall, the prognosis for this patient is fair, but improved 
with education about medication adherence and the recommendation 
for her to remain on an antidepressant for the foreseeable 
future. At time of discharge, she exhibited mood congruent 
stable affect. Her thought process was linear and goal directed. 
Her thought content was absent for suicidal ideation or thoughts 
of self -harm. No evidence of internal preoccupation or 
perceptual disturbances. Judgment and insight good.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Probiotic (B. coagulans) (Bacillus coagulans) unknown  oral 
DAILY 
2. B Complex 1 (vitamin B complex) unknown  oral DAILY 

 
Discharge Medications:
1.  Acotol 1 TAB PO DAILY  
2.  FLUoxetine 20 mg PO DAILY 
RX *fluoxetine 20 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
3.  B Complex 1 (vitamin B complex) 1 tab oral DAILY  
4.  Probiotic (B. coagulans) (Bacillus coagulans) 1 capsule oral 
DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depressive Disorder

 
Discharge Condition:
98.6 PO, 99 / 63, 85, 18, 98%
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent. 
Mood is 'Relieved;' Affect is stable and euthymic. Thought 
process is linear and goal-directed. Thought content absent for 
thoughts of self-harm or suicide. Future oriented. Judgment and 
insight good.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___